US06248740B1
Production of isopropyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propoxy]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate difumarate
8.10 g of 4-(diphenylmethoxy)piperidinepropanol was dissolved in 60 ml of N,N-dimethylformamide; 1.11 g of 60% sodium hydride in oil was added, followed by stirring at room temperature under reduced pressure for 1 hour. While the solution was ice cooled, 7.79 g of isopropyl 2-(6-chloroimidazo [1,2-b]pyridazin-2-yl]-2-methylpropionate was added, followed by stirring at constant temperature for 4 hours. Ice water was added, followed by extraction with ethyl acetate-tetrahydrofuran (1:1); the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate. The desired fraction was collected and concentrated under reduced pressure; the residue was dissolved in 10 ml of ethanol; 476 mg of fumaric acid was added, followed by concentration again. The residue was crystallized by the addition of ethyl acetate, collected by filtration, washed with ethyl acetate and dried to yield 1.05 g of the title compound.

reactant | 4-(diphenylmethoxy)piperidinepropanol | 8.10 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium hydride | 1.11 g | [H-].[Na+]
reactant | isopropyl 2-(6-chloroimidazo [1,2-b]pyridazin-2-yl]-2-methylpropionate | 7.79 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OC(C)C)(C)C | C13H16ClN3O2
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | isopropyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propoxy]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate difumarate | 1.05 g | C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C=C(N2)C(C(=O)OC(C)C)(C)C)C2=CC=CC=C2 | InChI=1S/C34H42N4O4.2C4H4O4/c1-25(2)41-33(39)34(3,4)29-24-38-30(35-29)16-17-31(36-38)40-23-11-20-37-21-18-28(19-22-37)42-32(26-12-7-5-8-13-26)27-14-9-6-10-15-27;2*5-3(6)1-2-4(7)8/h5-10,12-17,24-25,28,32H,11,18-23H2,1-4H3;2*1-2H,(H,5,6)(H,7,8)/b;2*2-1+
